US06670387B1
Preparation of 3-hydroxy-4-[(2-hydroxy-1-naphthalenyl)azo]-1-naphthalenesulfonic acid
To a stirring solution of 1-diazo-2-naphthol-4-sulfonic acid (1.49 g, 5.95 mmol) and 2-naphthol (0.858 g, 5.95 mmol) in water (20 mL), sodium bicarbonate (1.50 g, 17.85 mmol) was added slowly. The resulting solution was heated at 60° C. with stirring overnight. The solution was cooled to room temperature, and was adjusted to pH=1 with 3 N hydrochloride solution. The purple precipitate was isolated by filtration and washed with water to provide the title compound (1.35 g, 58%) MS(ES) m/z 393 [M−H].

reactant | 1-diazo-2-naphthol-4-sulfonic acid | 5.95 mmol, 1.49 g | C1=CC=C2C(=C1)C(=CC(C2=[N+]=[N-])O)S(=O)(=O)O | C10H8N2O4S
reactant | 2-naphthol | 5.95 mmol, 0.858 g | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | sodium bicarbonate | 17.85 mmol, 1.50 g | C([O-])(O)=O.[Na+]
reactant | hydrochloride | 3 N | Cl | ClH
solvent | water | 20 mL | O | H2O
product | 3-hydroxy-4-[(2-hydroxy-1-naphthalenyl)azo]-1-naphthalenesulfonic acid | 1.35 g, 58% | OC=1C=C(C2=CC=CC=C2C1N=NC1=C(C=CC2=CC=CC=C12)O)S(=O)(=O)O | C20H14N2O5S
